US09079866B2
5-{2′-[(4-Acetylpiperazin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-(4-((2-bromophenyl)sulfonyl)piperazin-1-yl)ethanone. MS (ESI): mass calcd. for C22H22FN5O3S, 455.14; m/z found, 456.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.34 (d, J=6.0, 2H), 8.11-8.08 (m, 1H), 8.00 (m, 1H), 7.75-7.70 (m, 1H), 7.65-7.60 (m, 1H), 7.45-7.41 (m, 1H), 7.37-7.29 (m, 2H), 3.43-3.34 (m, 4H), 2.96-2.81 (m, 4H), 2.02 (s, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-(4-((2-bromophenyl)sulfonyl)piperazin-1-yl)ethanone | BrC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C(C)=O | C12H15BrN2O3S
product | 5-{2′-[(4-Acetylpiperazin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | C(C)(=O)N1CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C22H22FN5O3S
